Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Phenothiazines / Epinephrine / ppi / Nitrous Oxide
 
Attending: ___
 
Chief Complaint:
urinary frequency and urgency
 
Major Surgical or Invasive Procedure:
robotic sacrocolpopexy
Tension free vaginal tape
Cystoscopy

 
History of Present Illness:
Ms. ___ presented for evaluation of urinary complaints and after 
review of records and cystocopy was diagnosed with a stage III 
cystocele and stage I vaginal prolapse, both of which were 
symptomatic.  She also had severe vaginal atrophy despite being 
on Vagifem.  Treatment options were reviewed for prolapse 
including no treatment, pessary, and surgery.  She elected for 
surgical repair.  All risks and benefits were reviewed with the 
patient and consent forms were signed.
 
Past Medical History:
PAST MEDICAL HISTORY:
1.  Breast cancer survivor, diagnosed in ___, status post 
mastectomy, chemotherapy, and tamoxifen treatment.
2.  Anxiety.
3.  Arthritis.
4.  Acid reflux.
5.  Low back pain.
6.  Osteopenia.
7.  Vaginal prolapse.

PAST SURGICAL HISTORY:
1.  Modified radical mastectomy with reconstruction in ___.
2.  Vaginal hysterectomy and bilateral salpingo-oophorectomy in 
___ for prolapse, Dr. ___ at ___.

PAST OB HISTORY:  Twelve number of pregnancies, three number of 
vaginal deliveries, two number of living children, two number of 
miscarriages, birth weight of largest baby delivered vaginally 7 
pounds 2 ounces, positive for forceps-assisted vaginal delivery, 
negative for vacuum-assisted vaginal delivery.  

Menopause:  Surgical menopause in ___.
 
Social History:
___
Family History:
Mother, heart disease and mitral valve prolapse; father, 
esophageal cancer; maternal grandfather, asthma; paternal 
grandmother, stomach cancer.
 
Physical Exam:
On postoperative check: 
VS 97.6  106/70  72  18  100% on 1.5L NC
OR/PACU I/O 100PO + 2550 IVF / 420UOP + EBL 100
A+O, NARD
RRR, CTAB
Abd soft, obese, no TTP, +BS, no R/G
Robot port sites with surrounding ecchymosis (all ~2cm in 
diameter)
Dermabond intact, well approximated without erythema/exudate
Pad with minimal VB
Foley with CYU
Ext NT, pboots on
 
Pertinent Results:
___ 07:32AM BLOOD WBC-5.3 RBC-3.73* Hgb-10.9* Hct-33.1* 
MCV-89 MCH-29.1 MCHC-32.8 RDW-13.0 Plt ___
 
Brief Hospital Course:
Ms. ___ underwent an uncomplicated robotic sacrocolpopexy, TVT, 
and cystoscopy for stage 3 pelvic organ prolapse and stress 
urinary incontinence; please see the operative report for full 
details.  Her postoperative course was uncomplicated.  She was 
discharged on postoperative day 1 in good condition after 
passing her trial of void and meeting all postoperative 
milestones.
 
Medications on Admission:
clonazepam 0.5 TID prn, ibandronate 150 q month, naratriptan 2.5 
prn h/a, simvastatin 40', sucralfate 1g TID, ASA (held), 
vagifem, vitamins 
allergies: phenothyazides, compazine (anaphy)
 
Discharge Medications:
1. clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day) as needed for pt request.  
2. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. sucralfate 1 gram Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
4. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
5. oxycodone-acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for pain: do not exceed 12 tabs in 
any 24 hr period.  do not take if dizzy or lightheaded.
Disp:*20 Tablet(s)* Refills:*0*
6. acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain or pt request.  
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pelvic organ prolapse
stress urinary incontinence

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
- Please call your doctor if you experience fever > 100.4, 
chills, nausea and vomiting, worsening or severe abdominal pain, 

heavy vaginal bleeding, chest pain, trouble breathing, or if you 

have any other questions or concerns.  
- Please call if you have redness and warmth around the 
incisions, if your incisions are draining pus-like or foul 
smelling discharge, or if your incisions reopen. 
- No driving while taking narcotic pain 
medication as it can make you drowsy. 
- No heavy lifting or strenuous exercise for 6 weeks to allow 
your incision to heal adequately.  
- Nothing per vagina (no tampons, intercourse, douching for 6 
weeks. 
- Please keep your follow-up appointments as outlined below. 

 
Followup Instructions:
___